US05905149
N-{2-[5-(2-oxindol-3-ylidenemethyl)quinol-8-yloxy]propionyl} alanine methylester.
To a solution of 2-[5-(2-oxindol-3-ylidenemethyl)quinol-8-yloxy]propionic acid (100 mg, 0.28 mmol), L-alanine methyl ester hydrochloride (40 mg, 0.29 mmol) and triethylamine (0.4 ml) in THF (10 ml) was added N, N'-dicyclohexylcarbodiimide (60 mg, 0.29 mmol) at room temperature under stirring. The stirring was continued for 15 h, then the mixture was filtered and the filtrate evaporated under vacuum. The residue was chromatographed on silica gel using as eluant ethylacetate methanol (9:1) to give pure title compound in 44.1% yield (55 mg).

reactant | 2-[5-(2-oxindol-3-ylidenemethyl)quinol-8-yloxy]propionic acid | 0.28 mmol, 100 mg | N1C(C(C2=CC=CC=C12)=CC1=C2C=CC=NC2=C(C=C1)OC(C(=O)O)C)=O | C21H16N2O4
reactant | L-alanine methyl ester hydrochloride | 0.29 mmol, 40 mg | Cl.COC([C@@H](N)C)=O
reactant | triethylamine | 0.4 ml | C(C)N(CC)CC | C6H15N
reactant | N, N'-dicyclohexylcarbodiimide | 0.29 mmol, 60 mg | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
solvent | THF | 10 ml | C1CCOC1 | C4H8O
product | N-{2-[5-(2-oxindol-3-ylidenemethyl)quinol-8-yloxy]propionyl} alanine methylester | 44.1% yield | COC([C@@H](NC(C(C)OC=1C=CC(=C2C=CC=NC12)C=C1C(NC2=CC=CC=C12)=O)=O)C)=O | C25H23N3O5
